US07439258B2
The para-toluenesulfonic acid salt of tyrosine benzyl ester (5.05 g, 11.4 mmol) was dissolved in THF (50 mL) containing DIEA (2.18 mL, 12.5 mmol) and di-tert-butyidicarbonate (2.98 g, 13.7 mmol) was added in one portion. The reaction was stirred 1.5 h at room temperature. Volatiles were removed under reduced pressure and the residue was dissolved in Et2O (150 mL). The solution was washed successively with water (25 mL), 5% citric acid (25 mL) and 5% NaHCO3 (25 mL). After drying (MgSO4), the solvent was evaporated under reduced pressure and the residue dissolved in acetone (100 mL). Cesium carbonate (4.83 g, 14.8 mmol) and methyl bromoacetate (1.3 mL, 13.7 mmol) were added and the heterogeneous mixture was stirred overnight at room temperature. Solids were then removed by filtration (acetone for washings) and the filtrate evaporated. The residue was dissolved in Et2O (150 mL) and washed with water (25 mL) and brine (25 mL). After drying (MgSO4), the solution was concentrated and the residue purified by flash chromatography using 25-50% EtOAc/hexane as eluent. The fully protected tyrosine derivative was obtained as a colorless oil (3.61 g).

reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | tyrosine benzyl ester | 11.4 mmol, 5.05 g | C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C16H17NO3
reactant | DIEA | 12.5 mmol, 2.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyidicarbonate | 13.7 mmol, 2.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Cesium carbonate | 14.8 mmol, 4.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 13.7 mmol, 1.3 mL | BrCC(=O)OC | C3H5BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
